US09233985B2
A stirred solution of methyl 2-carboxycyclopentanone (35.5 g, 250 mmol) in acetone (500 mL) was treated with anhydrous potassium carbonate (138 g, 1.0 mol) and allyl bromide (100 mL, 1.15 mol) and refluxed for 5 h. The mixture was cooled and filtered through Celite® (rinse filter cake with acetone), and the filtrate was concentrated in vacuo. The residual oil was dissolved in methanol (450 mL), treated with 6 N HCl (250 mL), and refluxed for 40 h. The solution was cooled to room temperature, concentrated in vacuo to remove most methanol, and diluted with water (200 mL). The aqueous solution was extracted with dichloromethane (3×250 mL), and the combined organic solution was washed with water, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride (200 mL each), dried (Na2SO4), and gently (volatile product) concentrated in vacuo to 75 mL volume. This solution was loaded onto a silica gel column (˜500 cc) and eluted with dichloromethane to afford (after gentle concentration of fractions) 2-allylcyclopentanone (27.3 g, 88%) as a colorless oil. NMR (CDCl3): δ 5.65-5.75 (m, 1 H), 4.90-5.05 (m, 2 H), 2.40-2.50 (m, 1 H), 2.20-2.30 (m, 1 H), 1.85-2.15 (m, 5 H), 1.65-1.75 (m, 1 H), 1.45-1.55 (m, 1 H).

reactant | methyl 2-carboxycyclopentanone | 250 mmol, 35.5 g | CC1(C(CCC1)=O)C(=O)O | C7H10O3
reactant | potassium carbonate | 1.0 mol, 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.15 mol, 100 mL | C(C=C)Br | C3H5Br
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2-allylcyclopentanone | 27.3 g, 88% | C(C=C)C1C(CCC1)=O | C8H12O
